US07776869B2
To an argon purged solution of (3-nitro-5-(trifluoromethyl)phenyl)-(sulfonylmorpholino)methanone (658 mg, 1.87 mmol) in EtOH (20 mL) was added Pd/C (198 mg, 0.187 mmol, 10%). The resulting mixture was allowed to stir under an atmosphere of hydrogen gas for 3 days. The reaction was purged with argon, filtered through Celite and concentrated under reduced pressure to afford (3-amino-5-(trifluoromethyl)phenyl)-(sulfonylmorpholino)methanone which was used without further purification. MS m/z=323 [M+H]+. Calc'd for C12H13F3N2O3S: 322.

reactant | (3-nitro-5-(trifluoromethyl)phenyl)-(sulfonylmorpholino)methanone | 1.87 mmol, 658 mg | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)C1OCCN(C1)C=O | C12H11F3N2O6S
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 0.187 mmol, 198 mg | [Pd] | Pd
product | (3-amino-5-(trifluoromethyl)phenyl)-(sulfonylmorpholino)methanone | NC=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)C1OCCN(C1)C=O | C12H13F3N2O4S
